US09304126B2
tert-Butyl 4-(2-(2-hydroxyethoxy)ethyl)-3-((2,2,2-trifluoroacetamido)methyl)piperazine-1-carboxylate
To a solution of tert-butyl 3-(aminomethyl)-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate, prepared as described in the previous step (8.8 g) in dichloromethane (100 mL) was added triethylamine (8.8 g, 87.0 mmol) and trifluoroacetic anhydride (6.1 g, 29.0 mmol). The reaction mixture was stirred at room temperature for 12 h, diluted with dichloromethane and washed with water. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to give the crude product which was purified by column chromatography to provide the title compound.

reactant | tert-butyl 3-(aminomethyl)-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate | NCC1CN(CCN1CCOCCO)C(=O)OC(C)(C)C | C14H29N3O4
reactant | triethylamine | 87.0 mmol, 8.8 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 29.0 mmol, 6.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | tert-Butyl 4-(2-(2-hydroxyethoxy)ethyl)-3-((2,2,2-trifluoroacetamido)methyl)piperazine-1-carboxylate | OCCOCCN1C(CN(CC1)C(=O)OC(C)(C)C)CNC(C(F)(F)F)=O | C16H28F3N3O5
